US07629383B2
Synthesis of bis-(octanoyloxymethyl) nonanedioate
A heterogeneous solution of Cs2CO3 (2.60 g, 4.00 mmol), NaI (30 mg, 0.20 mmol) and nonanedioic acid (0.75 g, 4.00 mmol) in THF (20 ml) was stirred for ½ hour at 60° C. Chloromethyl octanoate (1.53 g, 8.00 mmol) in THF (5 ml) was added dropwise added to the solution and stirred at 60° C. for 48 hours. The reaction mixture was cooled to room temperature and evaporated in vacuo. Diethyl ether (20 ml) was added and the residue was washed with saturated NaHCO3 (3×15 ml), dried with MgSO4 and filtered. Evaporation in vacuo gave the product as a colourless oil (0,95 g, 47.9%). 1H-NMR (CDCl3) δ 5.76 (s, 4H), 2.37 (t, 8H), 1.65 (t, 8H), 1.30 (s br, 22H), 90 (t, 6H). 13C-NMR (CDCl3) δ 172.89, 62.32, 79.44, 34.35, 34.26, 31.99, 29.32, 29.23, 29.14, 24.99, 24.86, 22.94, 14.41.

reactant | Cs2CO3 | 4.00 mmol, 2.60 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaI | 0.20 mmol, 30 mg | [Na+].[I-]
reactant | nonanedioic acid | 4.00 mmol, 0.75 g | C(CCCCCCCC(=O)O)(=O)O | C9H16O4
reactant | Chloromethyl octanoate | 8.00 mmol, 1.53 g | C(CCCCCCC)(=O)OCCl | C9H17ClO2
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | THF | 5 ml | C1CCOC1 | C4H8O
product | bis-(octanoyloxymethyl) nonanedioate | 0,95 g, 47.9% | C(CCCCCCCC(=O)OCOC(CCCCCCC)=O)(=O)OCOC(CCCCCCC)=O | C27H48O8
